US09102664B2
Preparation of (S)-methyl 2-(benzyloxy)propanoate (Formula-14)
Dimethyl formamide (0.5 ml) was added to a mixture of (S)-1-phenylethanamine salt of (S)-2-(benzyloxy)propanoic acid compound of formula-13a obtained in step-c) of above examples-9 &. 10 (200 g) and methanol (600 ml) and the reaction mixture was cooled to 0-5° C. Thionyl chloride (58.4 ml) was slowly added to the reaction mixture at 0-5° C. over a period of 1 hour and stirred for 1 hour at 0-10° C. After completion of the reaction, the reaction mixture was quenched with water and extracted with dichloro methane. Both aqueous and dichloro methane layers were separated, dichloro methane layer was washed with 10% sodium chloride and water. Distilled off the solvent completely from dichloro methane layer to get title compound. Yield: 129 g; Chiral purity: 99.5%

reactant | Dimethyl formamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | (S)-1-phenylethanamine | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | (S)-2-(benzyloxy)propanoic acid | C(C1=CC=CC=C1)O[C@H](C(=O)O)C | C10H12O3
reactant | Thionyl chloride | 58.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methanol | 600 ml | CO | CH4O
product | (S)-methyl 2-(benzyloxy)propanoate | C(C1=CC=CC=C1)O[C@H](C(=O)OC)C | C11H14O3
